US08563573B2
To a solution of 6-chloro-4-iodopyridin-3-amine (7.0 g, 28 mmol) in Et3N (100 mL) was added 1-ethynyl-1-methyl-cyclopropane (11.0 g, 137 mmol), CuI (0.53 g, 2.8 mmol) and Pd(PPh3)2Cl2 (1.9 g, 2.8 mmol) under N2 atmosphere. The mixture was refluxed overnight and quenched with H2O (100 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and purified by chromatography on silica gel (3% EtOAc in Petroleum ether as eluant) to afford 6-chloro-4-((1-methylcyclopropyl)ethynyl)pyridin-3-amine (3.0 g, 53%). 1H-NMR (CDCl3, 300 MHz) δ 7.84 (s, 1H), 7.08 (s, 1H), 4.11 (br s, 2H), 1.37 (s, 3H), 1.03 (t, J=2.4, 2H) 0.76 (t, J=2.4, 2H).

reactant | 6-chloro-4-iodopyridin-3-amine | 28 mmol, 7.0 g | ClC1=CC(=C(C=N1)N)I | C5H4ClIN2
reactant | 1-ethynyl-1-methyl-cyclopropane | 137 mmol, 11.0 g | C(#C)C1(CC1)C | C6H8
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 2.8 mmol, 0.53 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 2.8 mmol, 1.9 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-chloro-4-((1-methylcyclopropyl)ethynyl)pyridin-3-amine | 3.0 g, 53% | ClC1=CC(=C(C=N1)N)C#CC1(CC1)C | C11H11ClN2
